US09227930B2
205.2: N-(2-(3-Benzyl-2-(3-chloro-2,2-dimethylpropylamino)-2,3-dihydro-1H-inden-5-yloxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide
To a solution of N-(1-benzyl-6-(2-(1-methyl-1H-imidazole-4-sulfonamido)ethoxy)-2,3-dihydro-1H-inden-2-yl)-3-chloro-2,2-dimethylpropanamide (51.8 mg, 0.095 mmol) in dry tetrahydrofuran (1 ml) was added 2M borane dimethyl complex (0.143 ml, 0.285 mmol) and stirred at 60° C. for 6 h and at room temperature over night. Quenched by dropwise addition of 0.5N hydrochloric acid and refluxed for an other 2 h, the solution was saponified with sodium hydroxide and extracted three times with dichloromethane, dried, filtered and evaporated to obtain the crude product (m=53 mg) as a yellow oil that was purified by flash silica gel chromatography on 4 g SiO2-cartridge using 5% methanol in dichloromethane to afford the titled compound N-(2-(3-benzyl-2-(3-chloro-2,2-dimethylpropylamino)-2,3-dihydro-1H-inden-5-yloxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide as a pale yellow oil. m=17.7 mg (35%)

reactant | N-(1-benzyl-6-(2-(1-methyl-1H-imidazole-4-sulfonamido)ethoxy)-2,3-dihydro-1H-inden-2-yl)-3-chloro-2,2-dimethylpropanamide | 0.095 mmol, 51.8 mg | C(C1=CC=CC=C1)C1C(CC2=CC=C(C=C12)OCCNS(=O)(=O)C=1N=CN(C1)C)NC(C(CCl)(C)C)=O | C27H33ClN4O4S
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | N-(2-(3-benzyl-2-(3-chloro-2,2-dimethylpropylamino)-2,3-dihydro-1H-inden-5-yloxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide | C(C1=CC=CC=C1)C1C(CC2=CC=C(C=C12)OCCNS(=O)(=O)C=1N=CN(C1)C)NCC(CCl)(C)C | C27H35ClN4O3S
